US06900215B2
A mixture of 3-(5-bromo-2-fluorophenyl)pyridine (2.52 g, 10.0 mmol) and peracetic acid (3.37 ml of a 36-40 wt % solution in acetic acid) in tetrahydrofuran (40 ml) was stirred at ambient temperature for 1 h and then heated at 50° C. for 2 h. Hydrogen peroxide (35 wt % solution in water, 1 ml) was added and the mixture heated at 50° C. for a further hour. The solvent was removed in vacuo and the residue diluted with water and layered with ethyl acetate. Solid sodium hydrogencarbonate was added to pH 8. The layers were separated and the organic layer washed with water, brine, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by flash column chromatography on silica gel eluting with dichloromethane (containing 1% ammonia) on a gradient of methanol (2-5%) gave 3-(5-bromo-2-fluorophenyl)pyridine-1-oxide as a white solid (2.00 g, 75%): δH (400 MHz, CDCl3) 7.09-7.14 (1H, m), 7.35-7.43 (2H, m), 7.52-7.57 (2H, m), 8.22-8.25 (1H, m), 8.42 (1H, t, J 1).

reactant | 3-(5-bromo-2-fluorophenyl)pyridine | 10.0 mmol, 2.52 g | BrC=1C=CC(=C(C1)C=1C=NC=CC1)F | C11H7BrFN
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | Hydrogen peroxide | 1 ml | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(5-bromo-2-fluorophenyl)pyridine-1-oxide | 2.00 g, 75% | BrC=1C=CC(=C(C1)C=1C=[N+](C=CC1)[O-])F | C11H7BrFNO
